US07790754B2
Methyl 4′-({[(1-hydroxycyclopropyl)carbonyl]amino}methyl)biphenyl-2-carboxylate
Methyl 4′-(aminomethyl)biphenyl-2-carboxylate (0.325 g, 1.35 mmol), 1-hydroxycyclo-propanecarboxylic acid (0.151 g, 1.48 mmol) and 1-hydroxybenzotriazole hydrate (0.248 g, 1.62 mmol) were suspended in a mixture of THF/DCM (13 mL of THF/6.5 mL of DCM), followed by the addition of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.336 g, 1.75 mmol). Rapidly the solution turned homogenous, but returned to a heterogeneous mixture after 5 minutes. After 3 hours the solvent mixture was exchanged for pure DCM, prior to purification by silica gel chromatography eluted with 1-5% methanol in DCM to provide the title compound.

reactant | Methyl 4′-(aminomethyl)biphenyl-2-carboxylate | 1.35 mmol, 0.325 g | NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H15NO2
reactant | 1-hydroxycyclo-propanecarboxylic acid | 1.48 mmol, 0.151 g | OC1(CC1)C(=O)O | C4H6O3
reactant | 1-hydroxybenzotriazole hydrate | 1.62 mmol, 0.248 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.75 mmol, 0.336 g | Cl.CN(CCCN=C=NCC)C
solvent | THF DCM | 13 mL | C1CCOC1.C(Cl)Cl
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl 4′-({[(1-hydroxycyclopropyl)carbonyl]amino}methyl)biphenyl-2-carboxylate | OC1(CC1)C(=O)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C19H19NO4
